US05013738
B. Methyl 4-(4-Acetoxy-1-oxobutyl)benzoate
To 10.0 g (1 eq) of methyl 4-(4-hydroxy-1-butynyl)benzoate in 200 ml of 90% aqueous acetic acid and 2.4 g (0.15 eq) of mercuric acetate were added 1.0 ml of concentrated sulfuric acid. The mixture was refluxed for 2 hours at approximately 140° C., and cooled to room temperature to facilitate precipitation of mercury salts. The precipitated mercury salts were removed by filtration and the filtrate extracted three times with dichloromethane. The acidic extract was neutralized to pH 7 with solid sodium bicarbonate and the aqueous layer then extracted with dichloromethane. The extracts were dried over magnesium sulfate and evaporated under reduced pressure to yield the product which was further purified by flash chromatography eluting with 1:2 ethylacetate:hexanes. m.p. 61-62° C. M.S.: m/z=264 (M+, CI), 233.0812 (M+ --CH3O, calc. for C13H13O5 : 233.0814), 204 (M+ -AcOH), 176, 163 (100%), 143. 1H-N.M.R. (CDCl3, 300 MHz): δ=2.08 (s, 3H, CH3 --CO); 2.10 (quin, 2H, CH2 --CH2 --CH2, J=7.5 Hz); 3.12 (t, 2H, CH2 --CO, J=7.5 Hz); 3.96 (s, 3H, CH3O); 4.20 (t, 2H, CH2O, J=7.5 Hz); 8.02 (d, 2Harom., J=9 Hz); 8.18 (d, 2Harom., J=9 Hz).

reactant | methyl 4-(4-hydroxy-1-butynyl)benzoate | 10.0 g, 1 eq | OCCC#CC1=CC=C(C(=O)OC)C=C1 | C12H12O3
reactant | sulfuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | Methyl 4-(4-Acetoxy-1-oxobutyl)benzoate | C(C)(=O)OCCCC(=O)C1=CC=C(C(=O)OC)C=C1 | C14H16O5
